US07582668B2
1,1-Dimethylethyl [(1S)-3-hydroxy-1-({4-[8-(1-hydroxyethyl)imidazo[1,2-a]pyridin-2-yl]phenyl}methyl)propyl]carbamate
A mixture of 1,1-dimethylethyl ((1S)-1-{[4-(bromoacetyl)phenyl]methyl}-3-hydroxypropyl)carbamate (1.00 g, 2.59 mmol), 1-(2-amino-3-pyridinyl)ethanol (0.358 g, 2.59 mmol), and solid sodium bicarbonate (0.272 g, 3.24 mmol) in isopropanol (25 mL) was heated at reflux for 3.5 h. and concentrated in vacuo. The residue was dissolved in ethyl acetate, washed with water and brine, dried (Na2SO4), and concentrated. The resulting pale yellow solid was used in the next reaction without further purification. MS(ES+) m/e 426 [M+H]+.

reactant | 1,1-dimethylethyl ((1S)-1-{[4-(bromoacetyl)phenyl]methyl}-3-hydroxypropyl)carbamate | 2.59 mmol, 1.00 g | BrCC(=O)C1=CC=C(C=C1)C[C@@H](CCO)NC(OC(C)(C)C)=O | C17H24BrNO4
reactant | 1-(2-amino-3-pyridinyl)ethanol | 2.59 mmol, 0.358 g | NC1=NC=CC=C1C(C)O | C7H10N2O
reactant | sodium bicarbonate | 3.24 mmol, 0.272 g | C([O-])(O)=O.[Na+]
solvent | isopropanol | 25 mL | C(C)(C)O | C3H8O
product | 1,1-Dimethylethyl [(1S)-3-hydroxy-1-({4-[8-(1-hydroxyethyl)imidazo[1,2-a]pyridin-2-yl]phenyl}methyl)propyl]carbamate | OCC[C@H](CC1=CC=C(C=C1)C=1N=C2N(C=CC=C2C(C)O)C1)NC(OC(C)(C)C)=O | C24H31N3O4
